US04710507
8-Methyl-6-[2,6-dimethylpyrid-3-yl]-3,4-dihydro-2-(1H)-quinolone
A solution of 8-methyl-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone (0.30 g) was hydrogenated at 60° and 60 p.s.i. (4.13×105Pa) pressure over 10% palladised charcoal (0.10 g) for 48 hours. The cooled solution was then filtered through "Solkafloc" (Trademark for a cellulose-based filtering aid), evaporated to dryness in vacuo, and the residue chromatographed on silica (Merck "MK 60.9385") eluting with chloroform:methanol, 49:1. Combination and evaporation of appropriate fractions afforded a solid (0.16 g) which was recrystallised from ethyl acetate/methanol to give 8-methyl-6-[2,6-dimethylpyrid-3-yl]-3,4-dihydro-2-(1H)-quinoline, m.p. 255°-258° (0.110 g).

reactant | 8-methyl-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone | 0.30 g | CC=1C=C(C=C2C=CC(NC12)=O)C=1C(=NC(=CC1)C)C | C17H16N2O
reactant | charcoal | 0.10 g | C | CH4
product | 8-Methyl-6-[2,6-dimethylpyrid-3-yl]-3,4-dihydro-2-(1H)-quinolone | 0.16 g | CC=1C=C(C=C2CCC(NC12)=O)C=1C(=NC(=CC1)C)C | C17H18N2O
